US06610518B2
Preparation of the N-[4-(2-hydroxyethoxy)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)pyrimidin-6-yl]-4-(2-hydroxy-1,1-dimethylethyl)benzenesulphonamide
Streptomyces rimosus subsp. rimosus ATCC10970 maintained on a quarter strength ATCC172 agar slope was inoculated as a loopful of spores into a 300 ml Erlenmeyer flask containing 50 ml of AS-7H inoculum medium. This was allowed to incubate for 2 days at 28° C., 200 rpm on an Infors Multitron™ Shaker with 1″ throw. 2 mls of this inoculum medium was then transferred to one 300 ml Erlenmeyer flask containing 50 ml of AP-5H production medium and incubated under the same conditions for a further 24 hours. At this point 1 mg of 4-tert butyl-N-[4-(2-hydroxyethoxy)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)pyrimidin-6-yl]benzenesulphonamide (CA 2071193) dissolved in 0.5 ml of dimethylsulfoxide was added to each of the flasks and the fermentation allowed to continue under the same conditions for a further 24 hours. The flask was then extracted with 200 mls of ethyl acetate and the combined ethyl acetate solubles concentrated to dryness to give a gum solid.

reactant | 4-tert butyl-N-[4-(2-hydroxyethoxy)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)pyrimidin-6-yl]benzenesulphonamide | 1 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC(=N1)C1=NC=CC=N1)OCCO)OC1=C(C=CC=C1)OC | C27H29N5O6S
reactant | dimethylsulfoxide | 0.5 ml | CS(=O)C | C2H6OS
product | N-[4-(2-hydroxyethoxy)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)pyrimidin-6-yl]-4-(2-hydroxy-1,1-dimethylethyl)benzenesulphonamide | OCCOC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C(CO)(C)C)C1=NC=CC=N1 | C27H29N5O7S
